US08497376B2
c) 5-Nitro-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-pyran-4-yl)-pyridine
2,2,6,6-Tetramethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyran (as prepared in the previous step) (18.5 g, 0.069 mol) was dissolved in dimethoxyethane (DME) (350 mL). The resulting solution was treated with 2 M Na2CO3 (280 mL, 0.560 mol), LiCl (5.00 g, 0.110 mol) and 2-bromo-5-nitropyridine (14.0 g, 0.060 mol). The resulting mixture was degassed by sonication for 30 min under Ar and then Pd(PPh3)4 (8.00 g, 6.90 mmol) was added and the reaction heated at 80° C. under Ar overnight. The reaction mixture was allowed to cool to RT and extracted with EtOAc (3×150 mL). The residue was purified on silica gel with 2-10% EtOAc:hexane to obtain the title compound as a pale yellow solid (15.2 g, 83%). 1H-NMR (CDCl3; 400 MHz): δ 9.40 (d, 1H, J=2.8 Hz), 8.45 (dd, 1H, J=8.8, 2.8 Hz), 7.59 (d, 1H, J=8.8 Hz), 6.90 (t, 1H, J=1.6 Hz), 2.5 (d, 1H, J=1.6 Hz), 1.40 (s, 6H), 1.34 (s, 6H).

reactant | 2,2,6,6-Tetramethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyran | CC1(OC(C=C(C1)B1OC(C(O1)(C)C)(C)C)(C)C)C | C15H27BO3
reactant | Na2CO3 | 0.560 mol, 2 M, 280 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | LiCl | 0.110 mol, 5.00 g | [Li+].[Cl-]
reactant | 2-bromo-5-nitropyridine | 0.060 mol, 14.0 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
solvent | dimethoxyethane | 350 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 6.90 mmol, 8.00 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Nitro-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-pyran-4-yl)-pyridine | 15.2 g, 83% | [N+](=O)([O-])C=1C=CC(=NC1)C=1CC(OC(C1)(C)C)(C)C | C14H18N2O3
